US08912186B2
By a procedure similar to that of example 1.59.2, starting from 1,3-bis(4-chlorophenyl)-prop-2-en-1-one and diethyl malonate, diethyl 2-[1,3-bis(4-chlorophenyl)-3-oxopropyl]-malonate was obtained as colourless solid.

reactant | 1,3-bis(4-chlorophenyl)-prop-2-en-1-one | ClC1=CC=C(C=C1)C(C=CC1=CC=C(C=C1)Cl)=O | C15H10Cl2O
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | diethyl 2-[1,3-bis(4-chlorophenyl)-3-oxopropyl]-malonate | ClC1=CC=C(C=C1)C(CC(=O)C1=CC=C(C=C1)Cl)C(C(=O)OCC)C(=O)OCC | C22H22Cl2O5
